US06790860B2
From (2S,4R)-2-azidomethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared via (2S,4R)-2-aminomethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester [as light brown foam, MS: 475 (MH+)] and further reaction with 2,5-difluoro benzaldehyde analogously to reductive amination gave (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester as colorless oil MS: 601 (MH+) which was treated according to trityl cleavage (method 5) to give (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-mercapto-pyrrolidine-1-carboxylic acid tert-butyl ester as colorless liquid MS: 359 (MH+).

reactant | (2S,4R)-2-azidomethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN=[N+]=[N-] | C29H32N4O2S
reactant | (2S,4R)-2-aminomethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN | C29H34N2O2S
reactant | 2,5-difluoro benzaldehyde | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
product | (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNCC1=C(C=CC(=C1)F)F | C36H38F2N2O2S
